US07888376B2
(R)-1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(trifluoromethyl)phenyl)-2-phenylethanamine was dissolved in DCE (400 uL, 0.1 M in DCE, 40 umol) and potassium carbonate added (100 mg, 723 umol, 18 eq), followed by allyl carbonochloridate (400 uL, 0.2 M in DCE, 80 umol, 2.0 eq). The reaction mixture was agitated at room temperature for 18 h and then filtered and rinsed with DCE (2×250 uL). The combined filtrate was evaporated and the residue was redissolved in 1 mL of MeOH and purified by reverse phase preparative HPLC using MeOH:water:TFA system. (R)-allyl 1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(trifluoromethyl)phenyl)-2-phenylethylcarbamate was obtained as a colorless oil (13.2 umol, 33% yield). LCMS: M+calc=478.11; found=479.35.

reactant | (R)-1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(trifluoromethyl)phenyl)-2-phenylethanamine | ClC=1C=CC(=NC1)[C@](CC1=CC=CC=C1)(N)C1=CC(=CC(=C1)C(F)(F)F)F | C20H15ClF4N2
reactant | DCE | 40 umol, 0.1 M, 400 uL | ClCCCl | C2H4Cl2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | allyl carbonochloridate | 80 umol, 0.2 M, 400 uL, 2.0 eq | C(OCC=C)(=O)Cl | C4H5ClO2
product | (R)-allyl 1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(trifluoromethyl)phenyl)-2-phenylethylcarbamate | ClC=1C=CC(=NC1)[C@@](CC1=CC=CC=C1)(C1=CC(=CC(=C1)C(F)(F)F)F)NC(OCC=C)=O | C24H19ClF4N2O2
